US06867198B2
3-(5-(dimethylamino)methyl-5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1-yl)-4-(1H-indol-3-yl)pyrrole-2,5-dione
To a mixture of 3-(5-hydroxymethyl-5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1-yl)-4-(1H-indol-3-yl)pyrrole-2,5-dione (0.335 g, 0.84 mmol) and methylsulfonic acid anhydride (0.3 g, 1.7 mmol) in tetrahydrofuran was added pyridine (0.245 mL, 3.4 mmol). The mixture was heated to reflux for 4.5 h, cooled to room temperature, diluted with ethyl acetate, washed with water and saturated aqueous sodium chloride. The organic layer was dried over sodium sulfate, filtered and concentrated to give an oil, which was used in the next step without further purification. The crude mesylate was dissolved in tetrahydrofuran (9 mL), then dimethylamine aqueous solution (40%, 4.22 ml, 33.6 mmol) was added. After stirring for 24 hours at room temperature, additional dimethylamine aqueous solution (40%,4.22 mL, 33.6 mmol) was added, and the mixture stirred for an additional 48 hours. The mixture was diluted with ethyl acetate, washed with water, dried over sodium sulfate and concentrated under reduced pressure. The residue was subjected to silica gel chromatography to provide 0.38 g of the title compound.

reactant | 3-(5-hydroxymethyl-5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1-yl)-4-(1H-indol-3-yl)pyrrole-2,5-dione | 0.84 mmol, 0.335 g | OCC1CN2C3=C(C=CC=C3C1)C(=C2)C=2C(NC(C2C2=CNC1=CC=CC=C21)=O)=O | C24H19N3O3
reactant | methylsulfonic acid anhydride | 1.7 mmol, 0.3 g | CS(=O)(=O)OS(=O)(=O)C | C2H6O5S2
reactant | pyridine | 3.4 mmol, 0.245 mL | N1=CC=CC=C1 | C5H5N
reactant | dimethylamine | 33.6 mmol, 4.22 ml | CNC | C2H7N
reactant | dimethylamine | 33.6 mmol, 4.22 mL | CNC | C2H7N
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-(5-(dimethylamino)methyl-5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1-yl)-4-(1H-indol-3-yl)pyrrole-2,5-dione | 0.38 g | CN(C)CC1CN2C3=C(C=CC=C3C1)C(=C2)C=2C(NC(C2C2=CNC1=CC=CC=C21)=O)=O | C26H24N4O2
